US06265349B1
Preparation of 3-(4-chloro-2-fluoro-5-mercaptophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-42)
2.8 g (7.7 mmol) of 3-(5-acetylthio-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone was dissolved in 30 ml of methanol, 8.5 ml (8.5 mmol) of a 1N sodium hydroxide aqueous solution was dropwise added thereto under cooling with ice After stirring at room temperature for 1 hour, the mixture was poured into water and acidified with citric acid and extracted with ethyl acetate. After washing with water and a saturated sodium chloride aqueous solution, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. Then, the obtained crude crystals were washed with n-hexane to obtain 2.4 g (yield: 93%) of the desired product. Melting point: 141-142° C.

reactant | 3-(5-acetylthio-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 7.7 mmol, 2.8 g | C(C)(=O)SC=1C(=CC(=C(C1)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F)Cl | C15H10ClF4NO2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 30 ml | CO | CH4O
product | 3-(4-chloro-2-fluoro-5-mercaptophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 2.4 g, yield: 93% | ClC1=CC(=C(C=C1S)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C13H8ClF4NOS
